data/mechanism_extracts/NatCommun/10.1038_s41467-019-13024-5.json
{"doi": "10.1038_s41467-019-13024-5", "journal": "NatCommun", "is_review": false, "rxn_class_summary": "Diastereoselective electrocatalytic 1,2-diamination of di- and tri-substituted alkenes with sulfamides using a triarylamine redox mediator, producing cyclic sulfamides with H2 evolution at the cathode", "mechanism_family": ["mediator_anodic", "radical_cation", "radical_polar_crossover", "electrocatalysis_outer_sphere", "paired_electrolysis"], "electrochemical_role": "Anode oxidizes tris(2,4-dibromophenyl)amine mediator to its aminium radical cation, which performs outer-sphere SET oxidation of the alkene to a radical cation; cathode reduces protons to H2", "key_intermediates": [{"name": "triarylaminium radical cation (NAr3•+) mediator", "smiles": null, "role": "reactive"}, {"name": "alkene radical cation (II•+)", "smiles": null, "role": "transient"}, {"name": "β-amino carbon radical (IV) from sulfamide addition to alkene radical cation", "smiles": null, "role": "transient"}, {"name": "β-amino carbocation (V) after second SET oxidation", "smiles": null, "role": "transient"}, {"name": "cyclic sulfamide product (VI)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes triarylamine 1 to NAr3•+, which performs SET oxidation of the alkene to a radical cation; the sulfamide N–H adds to give a β-amino C-radical, which is oxidized by a second equivalent of NAr3•+ to a carbocation that cyclizes diastereoselectively to the 5-membered cyclic sulfamide. Protons released are reduced at the Pt cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "triarylamine redox catalysts of varying Ep/2 (1, 6, 7, 8)", "smiles": null, "purpose": "redox_probe", "observation": "Higher-potential mediator 1 (Ep/2 = 1.48 V vs SCE) gave product; lower-potential analogs 6–8 (1.06–1.33 V) were less effective, consistent with need to oxidize alkene (Ep/2 = 1.66–1.80 V)"}, {"name": "pure E- vs Z-isomer of alkene 2", "smiles": null, "purpose": "other", "observation": "Both isomers converged to the same trans diastereomer 5 (>20:1 dr; 65% and 69% yield) supporting a stepwise radical-cation pathway with stereochemistry set during cyclization"}, {"name": "cyclic voltammetry of 1, 2, 3 (and mixtures)", "smiles": null, "purpose": "redox_probe", "observation": "Catalytic current enhancement upon mixing 1 with alkenes 2 and 3 confirms mediator-based electrocatalytic oxidation of the alkenes"}], "evidence_types_used": ["cyclic_voltammetry", "redox_probe", "stoichiometric_intermediate", "other"], "evidence_strength": "medium", "notes": "Stereoselectivity is rationalized by cyclization of cationic intermediate V placing R1/R2 trans on the nascent 5-membered ring; no radical traps (TEMPO/BHT), KIE, or DFT are explicitly shown on these pages. Alternative direct anodic oxidation of alkene is disfavored because of self-dimerization and electrode-surface reactivity, motivating the indirect (mediated) electrolysis."}
